US07601844B2
Step 3: 4-(4-Chlorophenyl)-3,3-dimethylpiperidin-4-amine
A solution of ethyl 4-acetamido-4-(4-chlorophenyl)-3,3-dimethylpiperidine-1-carboxylate (2.04 g, 5.78 mmol) in ethanol (25 mL) was treated with 5 N NaOH (aq) (23.13 mL, 116 mmol), and the mixture was heated at reflux for two days. During the reflux, a colorless, soapy solid predipitated. Water was added until a clear solution was observed. The ethanol was removed under reduced pressure, and the aqueous mixture was extracted 4× with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated in-vacuo to yield the title compound (1.28 g, 5.36 mmol, 93% yield) as a colorless powder. MS (ESI+)=239, (M+H)+.

reactant | ethyl 4-acetamido-4-(4-chlorophenyl)-3,3-dimethylpiperidine-1-carboxylate | 5.78 mmol, 2.04 g | C(C)(=O)NC1(C(CN(CC1)C(=O)OCC)(C)C)C1=CC=C(C=C1)Cl | C18H25ClN2O3
reactant | NaOH | 116 mmol, 5 N, 23.13 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(4-Chlorophenyl)-3,3-dimethylpiperidin-4-amine | 5.36 mmol, 1.28 g, 93% yield | ClC1=CC=C(C=C1)C1(C(CNCC1)(C)C)N | C13H19ClN2
